US06506901B2
{1-[4-(4-{[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indol-3-yl}-acetic Acid
A solution of {1-[4-(4-{[(2R)-2-hydroxy-2-(4-hydroxy-3-methane-sulfonyl-amino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indol-3-yl}-acetic acid ethyl ester (0.154 g, 0.225 mmol) and 0.67 mL of 1N NaOH in 10 mL methanol was heated at reflux overnight. On cooling the reaction was neutralized with 0.67 mL of 1N HCl. The reaction mixture was concentrated in vacuo and triturated with H2O. The solids were filtered and dried (high vacuum) to give 0.070 g of the title compound as an off white solid.

reactant | {1-[4-(4-{[(2R)-2-hydroxy-2-(4-hydroxy-3-methane-sulfonyl-amino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indol-3-yl}-acetic acid ethyl ester | 0.225 mmol, 0.154 g | C(C)OC(CC1=CN(C2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CNC[C@@H](C1=C(C(=C(C=C1)O)S(=O)(=O)C)N)O)=O | C33H40N4O8S2
reactant | NaOH | 1N, 0.67 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.67 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | {1-[4-(4-{[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indol-3-yl}-acetic Acid | 0.070 g | O[C@@H](CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CC(=O)O)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C31H36N4O8S2
